US09084794B2
b) (+)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-2-(2,6-difluoro-4-(quinolin-7-yl)phenyl)acetamide
To a solution of 2-(4-bromo-2,6-difluorophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetamide (246 mg, 0.54 mmol), 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline (137 mg, 0.54 mmol) and 2M aq K2CO3 (0.59 mL, 1.18 mmol) in 1,4-dioxane (2.5 mL) was added PdCl2(dppf)-CH2Cl2 adduct (21.9 mg, 0.03 mmol). The reaction mixture was purged with nitrogen, sealed, and irradiated in the microwave at 110° C. for 25 min, at which point the reaction had proceeded to completion. The reaction mixture was diluted with ethyl acetate (25 mL) and washed with 5 mL of 1M aq HCl. The organic phase was washed with brine (5 mL), dried over anhydrous sodium sulfate, filtered through a pad of celite, and concentrated in vacuo. Purification of the residue with reverse phase HPLC (10-70% acetonitrile:water with 0.1% NH4OH) followed by chiral HPLC (Lux Cell 4, methanol) afforded the title product in 99.9% ee (61 mg, 22% yield). αD=+30 deg (c=0.1, methanol); MS(ES)+ m/e 507 [M+H]+; 1H NMR (400 MHz, CD2Cl2) δ ppm 0.58-0.71 (m, 2 H) 0.76-0.87 (m, 2 H) 1.65 (dd, J=11.12, 4.29 Hz, 1 H) 1.71-1.81 (m, 1 H) 1.95 (s, 1 H) 1.92 (s, 1 H) 2.29-2.38 (m, 1 H) 2.64-2.75 (m, 2 H) 2.75-2.84 (m, 1 H) 2.84-2.96 (m, 1 H) 3.14 (s, 2 H) 3.98 (s, 2 H) 4.78 (s, 1 H) 5.68 (br. s., 1 H) 7.40-7.47 (m, 3 H) 7.49 (dd, J=8.21, 4.17 Hz, 1 H) 7.85 (dd, J=8.59, 2.02 Hz, 1 H) 8.00 (d, J=8.59 Hz, 1 H) 8.27 (d, J=8.34 Hz, 1 H) 8.36 (s, 1 H) 8.99 (dd, J=4.29, 1.77 Hz, 1 H).

reactant | 2-(4-bromo-2,6-difluorophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetamide | 0.54 mmol, 246 mg | BrC1=CC(=C(C(=C1)F)C(C(=O)N)N1CCC2(CN(C(CO2)=O)C2CC2)CC1)F | C19H22BrF2N3O3
reactant | 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline | 0.54 mmol, 137 mg | CC1(OB(OC1(C)C)C1=CC=C2C=CC=NC2=C1)C | C15H18BNO2
reactant | K2CO3 | 1.18 mmol, 2M, 0.59 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) CH2Cl2 | 0.03 mmol, 21.9 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | (+)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-2-(2,6-difluoro-4-(quinolin-7-yl)phenyl)acetamide | 22% yield | C1(CC1)N1C(COC2(C1)CCN(CC2)C(C(=O)N)C2=C(C=C(C=C2F)C2=CC=C1C=CC=NC1=C2)F)=O | C28H28F2N4O3
